US04654348
2-Phenyl-3-hydroxy-7-(1-ethoxycarbonyl-1-methylethylthio)-pyrazolo[4,3-d]pyrimidine
3.66 g of 2-phenyl-3-hydroxy-7-mercapto-pyrazolo [4,3-d]pyrimidine was suspended in a solvent mixture comprising 150 ml of ethanol and 30 ml of water, and 2.5 g of anhydrous potassium carbonate was added thereto. While heating the mixture to 80° C., 3.5 g of ethyl α-bromoisobutyrate was dropwise added thereto, and the heating was continued for further 6 hours. Then, the solvent was distilled off. Water was added to the residue and the residue was dissolved. The solution was acidified with hydrochloric acid, and then extracted with chloroform. The starting material insoluble in both the aqueous layer and the chloroform layer was collected by filtration and recovered (recovered amount: 1.5 g). The chloroform layer was dried over anhydrous magnesium sulfate, and then the solvent was distilled off. The remaining solid was recrystallized from acetone.

reactant | 2-phenyl-3-hydroxy-7-mercapto-pyrazolo [4,3-d]pyrimidine | 3.66 g | C1(=CC=CC=C1)N1N=C2C(N=CN=C2S)=C1O | C11H8N4OS
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl α-bromoisobutyrate | 3.5 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | water | 30 ml | O | H2O
product | 2-Phenyl-3-hydroxy-7-(1-ethoxycarbonyl-1-methylethylthio)-pyrazolo[4,3-d]pyrimidine | C1(=CC=CC=C1)N1N=C2C(N=CN=C2SC(C)(C)C(=O)OCC)=C1O | C17H18N4O3S
